US05028606
To a stirred solution of 10 parts of intermediate 5, namely 6-quinoxalinemethanol in 133 parts of dichloromethane were added 20 parts of manganese(IV) oxide. After stirring for 3 hours at room temperature, the reaction mixture was filtered and the filtrate was evaporated, yielding 6.6 parts (67.3%) of 6-quinoxalinecarboxaldehyde; mp. 134° C. (interm. 6).

reactant | 6-quinoxalinemethanol | N1=CC=NC2=CC(=CC=C12)CO | C9H8N2O
catalyst | manganese(IV) oxide | [O-2].[Mn+4].[O-2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-quinoxalinecarboxaldehyde | 67.3% | N1=CC=NC2=CC(=CC=C12)C=O | C9H6N2O
